US07175854B2
argipressin tannate;
desmopressin acetate; lypressin.

reactant | desmopressin acetate | CC(=O)O.C=1C=CC(=CC1)C[C@H]2C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSCCC(=O)N[C@H](C(=O)N2)CC=3C=CC(=CC3)O)C(=O)N4CCC[C@H]4C(=O)N[C@H](CCCNC(=N)N)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N
reactant | lypressin | C=1C=CC(=CC1)C[C@H]2C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N2)CC=3C=CC(=CC3)O)N)C(=O)N4CCC[C@H]4C(=O)N[C@@H](CCCCN)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N | C46H65N13O12S2
product | argipressin tannate | C1CC(N(C1)C(=O)C2CSSCC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)N2)CC(=O)N)CCC(=O)N)CC3=CC=CC=C3)CC4=CC=C(C=C4)O)N)C(=O)NC(CCCN=C(N)N)C(=O)NCC(=O)N | C46H65N15O12S2
